US09062070B2
2-Chloro-6-fluorobenzonitrile (15.6 g, 100 mmol) was dissolved in trific acid (75 mL) at 0° C., then NBS (17.8 g, 100 mmol) was added. The reaction was warmed up to room temperature and stirred overnight. The reaction mixture was poured into ice and extracted with DCM (2×). DCM layers were washed with NaHCO3 and brine. The DCM was dried over Na2SO4 then filtered and concentrated. The product was purified by chromatography through a 330 g ISCO Redi-Sep column with 10-20% ethyl acetate/hexane solvent system to yield 3-bromo-2-chloro-6-fluorobenzonitrile.

reactant | 2-Chloro-6-fluorobenzonitrile | 100 mmol, 15.6 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | NBS | 100 mmol, 17.8 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 3-bromo-2-chloro-6-fluorobenzonitrile | BrC=1C(=C(C#N)C(=CC1)F)Cl | C7H2BrClFN
